US05389649
A stirred solution of 3,4-dichlorophenylmagnesium bromide [prepared from 3,4-dichlorobromobenzene (10.2 g, 45 mmol) and magnesium (1.1 g, 45 mmol) in the usual fashion] was treated with a solution of 3-chloro-1,4-oxathiane [prepared from 1,4-oxathiane (2.6 g, 25 mmol) using the method of Tuleen and Bennet J. Het. Chem. 1969, 6, 115] in benzene (30 ml), maintaining the temperature of reaction below 10° C. The mixture was allowed to stand at room temperature overnight. It was then poured into ammonium chloride solution (50 ml), the organic phase was separated and the aqueous washed with ether (2×40 ml). The combined organic extracts were dried (MgSO4) and purified by flash chromatography on silica eluting with toluene/hexane (1:1) to give 3-(3,4-dichlorophenyl)-1,4-oxathiane (4.5 g), as colourless crystals, m.p. 65°-68° C.;

reactant | 3,4-dichlorophenylmagnesium bromide | ClC=1C=C(C=CC1Cl)[Mg]Br
reactant | 3,4-dichlorobromobenzene | 45 mmol, 10.2 g | ClC=1C=C(C=CC1Cl)Br | C6H3BrCl2
reactant | magnesium | 45 mmol, 1.1 g | [Mg] | Mg
reactant | 3-chloro-1,4-oxathiane | ClC1COCCS1 | C4H7ClOS
reactant | 1,4-oxathiane | 25 mmol, 2.6 g | O1CCSCC1 | C4H8OS
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 3-(3,4-dichlorophenyl)-1,4-oxathiane | 4.5 g | ClC=1C=C(C=CC1Cl)C1COCCS1 | C10H10Cl2OS
